US06177440B1
D. Preparation of [9-benzyl-5-carbamoyl-1-chlorocarbazol-4-yl]oxyacetic acid methyl ester
A solution of 78 mg of [5-carbamoyl-1-chlorocarbazol-4-yl]oxyacetic acid methyl ester in 0.8 ml of dry dimethylformamide was added to 10 mg sodium hydride (60% in mineral oil) in 0.2 ml of dimethylformamide and stirred for 15 minutes. Benzyl bromide (0.031 ml) was then added and the reaction was stirred overnight. The reaction mixture was poured into water and acidified with 1 ml of 1 N HCl solution and extracted twice with ethyl acetate. The extracts were washed with water (3×) and then with brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel eluting with methanol/0-2% in dichloromethane to afford 40 mg of the subtitle compound. ESIMS m/e 423 (M++1) 425 (M++3) NMR (300 MHz, CDCl3): δ 7.43-7.22 (m, 7H); 7.06 (d, J=7.3, 2H); 6.51 (d, J=8.6, 1H); 6.05 (s, 2H); 5.80 (br, 2H); 4.88 (s, 2H); 3.83 (s, 3H).

reactant | [5-carbamoyl-1-chlorocarbazol-4-yl]oxyacetic acid methyl ester | 78 mg | COC(COC1=CC=C(C=2NC3=CC=CC(=C3C12)C(N)=O)Cl)=O | C16H13ClN2O4
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | Benzyl bromide | 0.031 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 1 N, 1 ml | Cl | ClH
solvent | dimethylformamide | 0.8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [9-benzyl-5-carbamoyl-1-chlorocarbazol-4-yl]oxyacetic acid methyl ester | 40 mg | COC(COC1=CC=C(C=2N(C3=CC=CC(=C3C12)C(N)=O)CC1=CC=CC=C1)Cl)=O | C23H19ClN2O4
